US04261995
Sixty (60) ml of 1 molar borane in tetrahydrofuran is added to a solution of 7.6 g of β-amino-2-trifluoromethylcinnamonitrile (prepared according to Preparation D, Part 1) in 100 ml of ether. The mixture is stirred at room temperature overnight, then treated with 10 ml of water, and stirred for 45 minutes. The resulting mixture is concentrated under reduced pressure and 200 ml of isopropanol and 80 ml of 20% hydrochloric acid are added thereto. This mixture is refluxed for 2 hours, then concentrated to a small volume. The residue is made alkaline by addition of excess of 20% sodium hydroxide and is extracted 3 times with methylene chloride. The extracts are combined, concentrated and distilled to give 1.7 g of 1-(2-trifluoromethylphenyl)-1,3-propanediamine, bp 73°-77° C./0.1 mm.

reactant | borane | 1 molar | B | BH3
reactant | β-amino-2-trifluoromethylcinnamonitrile | 7.6 g | NC(=CC#N)C1=C(C=CC=C1)C(F)(F)F | C10H7F3N2
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(2-trifluoromethylphenyl)-1,3-propanediamine | 1.7 g | FC(C1=C(C=CC=C1)C(CCN)N)(F)F | C10H13F3N2
